US08242157B2
To a solution of benzene-1,2-diamine (1.62 g, 15.0 mmol) and cyclopropanecarbaldehyde (1.05 g, 15.0 mmol) in MeOH (15 mL) at 0° C. was added NaCNBH3 (2.07 g, 33.0 mmol) and acetic acid (0.2 mL). The ice bath was removed and the resulting mixture was stirred at room temperature overnight. The resulting mixture was then diluted with EtOAc, washed with H2O, dried over Na2SO4, filtered, and concentrated in vacuo. The resultant residue was purified by flash column chromatography (SiO2), eluting with a hexanes-EtOAc gradient to yield N-cyclopropylmethyl-benzene-1,2-diamine MS 163 (M+1)+

reactant | benzene-1,2-diamine | 15.0 mmol, 1.62 g | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | cyclopropanecarbaldehyde | 15.0 mmol, 1.05 g | C1(CC1)C=O | C4H6O
reactant | NaCNBH3 | 33.0 mmol, 2.07 g | [BH3-]C#N.[Na+]
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 15 mL | CO | CH4O
product | N-cyclopropylmethyl-benzene-1,2-diamine | C1(CC1)CNC=1C(=CC=CC1)N | C10H14N2
